US09130244B2
15.1 g (269 mmol) of propargyl alcohol and 1.92 g (7 mmol) of titanium tetraisopropoxide were added to 18.0 g of the obtained methyl 5-cyanovalerate, and heated and stirred at 120° C. for 8 hours while methanol was removed. After the reaction, methanol and excessive propargyl alcohol were evaporated away under reduced pressure, and the residue was purified through column chromatography (Wakogel C-200, elution with hexane/ethyl acetate=1/9) to give 16.7 g (yield 75%) of 2-propynyl 5-cyanovalerate.

reactant | propargyl alcohol | 269 mmol, 15.1 g | C(C#C)O | C3H4O
reactant | methyl 5-cyanovalerate | 18.0 g | C(#N)CCCCC(=O)OC | C7H11NO2
catalyst | titanium tetraisopropoxide | 7 mmol, 1.92 g | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
solvent | methanol | CO | CH4O
product | 2-propynyl 5-cyanovalerate | 16.7 g, yield 75% | C(#N)CCCCC(=O)OCC#C | C9H11NO2
